US06211234B1
A mixture of 4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxymethoxy)benzoic acid (6 g), (RS) serine methyl ester hydrochloride (2.7 g), 1-hydroxybenzotriazole (2.6 g), triethylamine (2.4 mL), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (3.6 g) and DMF (100 mL) is stirred at ambient temperature for 16 hours. The reaction is concentrated in vacuo and the residue partitioned between ethyl acetate (150 mL) and 1N HCl (100 mL). The organic phase is washed with water (2×100 mL) then dried over magnesium sulphate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica eluting initially with a mixture of ethyl acetate and cyclohexane (3:7 v/v) then with a mixture of ethyl acetate and cyclohexane (1:1 v/v). Fractions homogeneous in the required product are combined and evaporated to give methyl (RS)-3-hydroxy-2-[4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxymethoxy)benzoyl]aminopropionate (6.5 g) as a colourless oil.

reactant | 4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxymethoxy)benzoic acid | 6 g | S1C=C(C=C1)COC1=CC(=C(C(=O)O)C=C1)OCOCC[Si](C)(C)C | C18H24O5SSi
reactant | (RS) serine methyl ester hydrochloride | 2.7 g | Cl.COC(C(N)CO)=O
reactant | 1-hydroxybenzotriazole | 2.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 3.6 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.4 mL | C(C)N(CC)CC | C6H15N
product | methyl (RS)-3-hydroxy-2-[4-(3-thienylmethoxy)-2-(2-trimethylsilylethoxymethoxy)benzoyl]aminopropionate | 6.5 g | OCC(C(=O)OC)NC(C1=C(C=C(C=C1)OCC1=CSC=C1)OCOCC[Si](C)(C)C)=O | C22H31NO7SSi
